US06706709B2
3-(2-Methyl-1H-indol-3-ylmethylene)-2-oxo-2,3-dihydro-1H-indole-5-sulfonic acid methylamide
5-Methylaminosulfonyl-2-oxindole was condensed with 2-methylindole-3-carboxaldehyde to give the title compound.

reactant | 5-Methylaminosulfonyl-2-oxindole | CNS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C9H10N2O3S
reactant | 2-methylindole-3-carboxaldehyde | CC=1NC2=CC=CC=C2C1C=O | C10H9NO
product | 3-(2-Methyl-1H-indol-3-ylmethylene)-2-oxo-2,3-dihydro-1H-indole-5-sulfonic acid methylamide | CNS(=O)(=O)C=1C=C2C(C(NC2=CC1)=O)=CC1=C(NC2=CC=CC=C12)C | C19H17N3O3S
